US08007927B2
9-(3-Bromophenyl)-9H-carbazole (11.7 g, 36 mmol), Bis(pinacolato)diboron (13.85 g, 54 mmol), potassium acetate (7.00 g, 71 mmol), 1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) (0.6 g) were dissolved in 100 ml of dry dioxane and refluxed under N2 atmosphere overnight. Then reaction mixture was cooled down to room temperature, diluted with ethyl acetate, washed with brine, dried over magnesium sulfate, and evaporated. The solid residue was subjected to column chromatography on silica (eluent hexane/ethyl acetate 5/1), providing 8.00 of 9-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-9H-carbazole as yellow solid. Analytically pure material may be prepared by crystallization from hexane, otherwise product was used without additional purification.

reactant | 9-(3-Bromophenyl)-9H-carbazole | 36 mmol, 11.7 g | BrC=1C=C(C=CC1)N1C2=CC=CC=C2C=2C=CC=CC12 | C18H12BrN
reactant | Bis(pinacolato)diboron | 54 mmol, 13.85 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 71 mmol, 7.00 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium (II) | 0.6 g | Cl[Pd]Cl
product | 9-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-9H-carbazole | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1C2=CC=CC=C2C=2C=CC=CC12)C | C24H24BNO2
